US04021542
To a solution of 3.0 g (15.8 mmoles) of isopropylidene-ribose in 50 ml of absolute pyridine 4.4 g (15.8 mmoles) of trityl chloride are added and the mixture is stirred in a closed flask for 3 days at room temperature. The yellow-brown solution produced is poured into approximately 1 l of ice water. The brown sirup which separates is decanted off and is thoroughly mixed several times with water. Following this this sirup is dissolved in 50 ml of CHCl3 and washed twice with KHSO4 -solution and 3 times with water. After drying over sodium sulfate the solvent is abstracted. A light brown sirup containing crystals remains. By crystallisation from methanol it is possible to obtain 1 g of triphenylcarbinol.

reactant | isopropylidene-ribose | 15.8 mmoles, 3.0 g | C(C)(C)=C([C@H]([C@H]([C@H](C=O)O)O)O)O | C8H14O5
reactant | pyridine | 15.8 mmoles, 50 ml, 4.4 g | N1=CC=CC=C1 | C5H5N
reactant | trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
product | triphenylcarbinol | 1 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
